US05440044
A solution of 1.0 g of 2-amino-6-bromopyridine and 580 mg of triethylamine in 12 ml of tetrahydrofuran is mixed with stirring and ice cooling by instillation with 0.78 ml of glutaric acid methyl ester chloride and the mixture is stirred for 17 hours at room temperature. The reaction mixture is added to water, shaken out with diethyl ether, the organic phase is dried (sodium sulfate) and concentrated by evaporation. The residue is chromatographed on silica gel with dichloromethane/methanol=95/5. 668 mg of 5-(6-bromo-2-pyridylamino)-5-oxo-pentanoic acid methyl ester of melting point 128°-131° C. is obtained.

reactant | 2-amino-6-bromopyridine | 1.0 g | NC1=NC(=CC=C1)Br | C5H5BrN2
reactant | triethylamine | 580 mg | C(C)N(CC)CC | C6H15N
reactant | glutaric acid methyl ester chloride | 0.78 ml | [Cl-].COC(CCCC(=O)O)=O
reactant | water | O | H2O
solvent | tetrahydrofuran | 12 ml | O1CCCC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 5-(6-bromo-2-pyridylamino)-5-oxo-pentanoic acid methyl ester | 668 mg | COC(CCCC(=O)NC1=NC(=CC=C1)Br)=O | C11H13BrN2O3
